US04996282
I. Preparation of Diaceto (1,10-phenanthroline) Palladium (II) Catalyst
All raw materials were technical grade without any further purification. A solution of 5.0 gm [27.7 millimoles (mmol)]of 1,10-phenanthroline dissolved in 250 ml of benzene was added dropwise with stirring to a solution of 4.0 gm of palladium diacetate (17.8 mmol) in 250 ml of benzene at room temperature. A bright yellow solid precipitated from the solution. After 3 hours the solid was isolated by filtration. The precipitate was washed with 200 ml of benzene, and 400 ml of petroleum ether and then dried at reduced pressure overnight. The yield of pale yellow solid was 7.20 g (17.8 mmol; 100%).

reactant | 1,10-phenanthroline | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | palladium diacetate | 17.8 mmol, 4.0 gm | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | (1,10-phenanthroline) Palladium (II) | [Pd+2].N1=CC=CC2=CC=C3C=CC=NC3=C12 | InChI=1S/C12H8N2.Pd/c1-3-9-5-6-10-4-2-8-14-12(10)11(9)13-7-1;/h1-8H;/q;+2
